US08877782B2
[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-morpholin-4-yl-methanone
As described for example 12, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.64 mmol) was converted using morpholine instead of 2,2,2-trifluoroethylamine to the title compound (SiO2, heptane:ethyl acetate=80:20 to 20:80, 165 mg, 67%) which was obtained as a white solid. MS: m/e=380.3 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.64 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | morpholine | N1CCOCC1 | C4H9NO
product | [6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-morpholin-4-yl-methanone | 165 mg, 67% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(C=N1)C(=O)N1CCOCC1 | C21H21N3O4
